US07816353B2
To a 25 mL round bottom flask is added 2-(2-amino-5-formyl-6-methylsulfanyl-pyrmidin-4-ylamino)-N-(3-trifluoromethyl-phenyl)-acetamide (40.0 mg, 0.10 mmol, 1.0 eq.), EtOH (2.0 mL), and sodium borohydride (5.0 mg, 0.13 mmol, 1.3 eq.). The reaction was stirred at RT for 1 hr, concentrated to remove EtOH, and partitioned between H2O and EtOAc. The aqueous layer was extracted once more with EtOAc. The combined EtOAc layers were then washed with brine, dried with Na2SO4, and concentrated to give pure 2-(2-amino-5-hydroxymethyl-6-methylsulfanyl-pyrimidin-4-ylamino)-N-(3-trifluoromethyl-phenyl)-acetamide as a white solid (37.0 mg, 95%). LC/MSD (BP Series 1100 MSD): Expected MW: 387, Observed M+H, 388.1, Retention time: 1.35 min. ANALYTICAL HPLC: >94%, Retention time: 2.82 min (8 minute run). 1H-NMR (d-MeOH): 8.00 (s, 1H), 7.78 (d, 1H), 7.50 (t, 1H), 7.39 (d, 1H), 4.62 (s, 2H), 4.38 (s, 2H), 2.42 (s, 3H) ppm.

reactant | 2-(2-amino-5-formyl-6-methylsulfanyl-pyrmidin-4-ylamino)-N-(3-trifluoromethyl-phenyl)-acetamide | 0.10 mmol, 40.0 mg, 1.0 eq. | NC1=NC(=C(C(=N1)NCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C=O)SC | C15H14F3N5O2S
reactant | sodium borohydride | 0.13 mmol, 5.0 mg, 1.3 eq. | [BH4-].[Na+]
solvent | EtOH | 2.0 mL | CCO | C2H6O
product | 2-(2-amino-5-hydroxymethyl-6-methylsulfanyl-pyrimidin-4-ylamino)-N-(3-trifluoromethyl-phenyl)-acetamide | 37.0 mg, 95% | NC1=NC(=C(C(=N1)NCC(=O)NC1=CC(=CC=C1)C(F)(F)F)CO)SC | C15H16F3N5O2S
